US05736578
Prepared analogously to 2-[9-(2-Methoxyfluorenyl)]ethylamine hydrochloride in Example 1 beginning with 2,7-dihydroxy-9-fluorenone. 1H NMR (300 MHz, CDCl3) δ 7.60 (d, J=8.0 Hz, 2H), 7.00 (d, J=2.0 Hz, 2H), 7.85 (dd, J=8.0, 2.0 Hz, 2H), 3.90-4.10 (m, 1H), 3.85 (s, 6H), 2.50-2.60 (m, 2H), 2.10-2.30 (m, 2H). Alternatively, the necessary intermediate 2,7-dimethoxyfluorenone was prepared as follows: Methyl 2-bromo-5-methoxybenzoate (1.60 g, 6.53 mmol), 4-methoxyphenylboronic acid (1.30 g, 8.55 mmol), and tris(dibenzylideneacetone) dipalladiurn (0) (0.20 g, 0.22 mmol) were added to dimethoxyethane (25 mL) and 2M sodium carbonate (25 mL). The reaction was stirred at reflux for 16 h then decanted and the residue extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and the solvent removed by rotary evaporation to afford 1.50 g of the coupled product (5.51 mmol, 84% yield). The ester (10.80 g, 39.70 mmol) was hydrolyzed with 1N sodium hydroxide (80 mL) in refluxing ethanol (500 mL). The cooled reaction mixture was extracted with methylene chloride and then acidified with 1N hydrochloric acid. The acidic solution was then extracted with methylene chloride. The organic layers were combined and the solvent was dried and concentrated by rotary evaporation to give 9.00 g (34.88 mmol, 88% yield) of the acid. 9.00 g (34.88 mmol) of the acid was dissolved in thionyl chloride (250 mL) and stirred at reflux for 6 h. The reaction was cooled to ambient temperature and the solvent was removed by rotary evaporation to give 8.20 g of 2,7-dimethoxyfluorenone (34.17 mmol, 98% yield) as a red solid.

reactant | 2,7-dihydroxy-9-fluorenone | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)=O | C13H8O3
reactant | Methyl 2-bromo-5-methoxybenzoate | 6.53 mmol, 1.60 g | BrC1=C(C(=O)OC)C=C(C=C1)OC | C9H9BrO3
reactant | 4-methoxyphenylboronic acid | 8.55 mmol, 1.30 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2M, 25 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone) dipalladiurn (0) | 0.22 mmol, 0.20 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | dimethoxyethane | 25 mL | C(OC)COC | C4H10O2
product | 2,7-dimethoxyfluorenone | COC=1C(C2=CC3=CC(=CC=C3C2=CC1)OC)=O | C15H12O3
